US07704933B2
B) Perhydro-2,3,8a-trimethyl-1-naphthalenone
2,3,8a-trimethyl-3,4,4a,5,8,8a-hexahydro-1(2H)-naphthalenone (10 g, 52 mmol) was hydrogenated, at room temperature and atmospheric pressure, in ethyl acetate (100 ml) in presence of 5% Pd—C (1.0 g). The crude product was purified by bulb-to-bulb distillation (78° C./0.035 mbar) to give desired compound (9.88 g, 51 mmol, 98%) as a 3:2 mixture of diastereoisomers.

reactant | 2,3,8a-trimethyl-3,4,4a,5,8,8a-hexahydro-1(2H)-naphthalenone | 52 mmol, 10 g | CC1C(C2(CC=CCC2CC1C)C)=O | C13H20O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd—C | 1.0 g | [Pd] | Pd
product | Perhydro-2,3,8a-trimethyl-1-naphthalenone | 51 mmol, 9.88 g, 98% | CC1C(C2(CCCCC2CC1C)C)=O | C13H22O
